US06747016B1
a) (2S)-2-Benzyloxycarbonylamino-3-(6-chloro-purin-9-yl)-propionic acid tert-butyl ester
To a suspension of 7.73 g (50 mmol) of 6-chloropurine in 350 ml of absolute THF were added 14.43 g (55 mmol) triphenylphosphine at −10 to 0° C. followed by 9.57 g (55 mmol) of diethyl azodicarboxylate and 14.8 g (50 mmol) of N-benzyloxycarbonyl-L-serine tert-butyl ester in 100 ml of absolute THF, and the mixture was stirred at 0° C. for 48 h. The solvent was evaporated, the residue was dissolved in EE/heptane (2:1), filtered and the solvent was removed in vacuo. The crude product was purified by flash chromatography on silica gel (EE/n-heptane (1:1) and DCM/EE (85:15)). Yield: 6.6 g.

reactant | 6-chloropurine | 50 mmol, 7.73 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | triphenylphosphine | 55 mmol, 14.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 55 mmol, 9.57 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N-benzyloxycarbonyl-L-serine tert-butyl ester | 50 mmol, 14.8 g | C(C)(C)(C)OC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O | C15H21NO5
solvent | THF | 350 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (2S)-2-Benzyloxycarbonylamino-3-(6-chloro-purin-9-yl)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CN1C2=NC=NC(=C2N=C1)Cl)NC(=O)OCC1=CC=CC=C1)=O | C20H22ClN5O4
